US07173025B1
To a solution of 2-aminophenol (2.84 g) in dichloromethane (120 ml) was added di-tert-butyl dicarbonate (6.55 g). The mixture was stirred at room temperature for 18 hours. The mixture was partitioned between water and dichloromethane. The organic extracts were dried (MgSO4) and evaporated to give a solid which was purified by column chromatography on silica eluting with a mixture of ethyl acetate and hexane (20:80) to give 2-tert-butyloxycarbonylaminophenol (1.80 g);

reactant | 2-aminophenol | 2.84 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | di-tert-butyl dicarbonate | 6.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 2-tert-butyloxycarbonylaminophenol | 1.80 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)O | C11H15NO3
